### PR TITLE
feat(Analysis): radial functions and the submodule of radial Schwartz functions

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
This PR defines the notion of a radial function and the submodule of the Schwartz space consisting of radial functions.

This file was [originally written](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/blob/main/SpherePacking/ForMathlib/RadialSchwartz/Basic.lean) as part of the sphere packing project.

Co-Authored-By: @seewoo5 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by thefundamentaltheor3m** [comment]
whoops, something weird happened when I did `mk_all`.

File: Mathlib/Analysis/Normed/Radial.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+
+end Isometries
+
+end Function
+
+section Norm
+
+open Function
+
+lemma RCLike.normSq_radial {K : Type*} [RCLike K] : IsRadial (RCLike.normSq (K := K)) := by
```
Comment (CoolRmal) [inline Mathlib/Analysis/Normed/Radial.lean]:
```suggestion
lemma RCLike.isRadial_normSq {K : Type*} [RCLike K] : IsRadial (RCLike.normSq (K := K)) := by
```

File: Mathlib/Analysis/Normed/Radial.lean [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+  intro _ _ _
+  simpa [RCLike.normSq_eq_def']
+
+lemma Complex.normSq_radial : IsRadial (Complex.normSq) := RCLike.normSq_radial
```
Comment (CoolRmal) [inline Mathlib/Analysis/Normed/Radial.lean]: I think this should be deleted as you can always apply the RCLike version instead.

File: Mathlib/Analysis/Normed/Radial.lean [hunk 3]
```diff
@@ -0,0 +1,106 @@
...
+
+end Function
+
+section Norm
+
+open Function
+
+lemma RCLike.normSq_radial {K : Type*} [RCLike K] : IsRadial (RCLike.normSq (K := K)) := by
+  intro _ _ _
+  simpa [RCLike.normSq_eq_def']
```
Comment (CoolRmal) [inline Mathlib/Analysis/Normed/Radial.lean]:
```suggestion
  simp [isRadial_def, RCLike.normSq_eq_def']
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/Radial.lean [hunk 4]
```diff
@@ -0,0 +1,295 @@
...
+
+@[expose] public section
+
+open Function SchwartzMap
+
+/-- The submodule of radial Schwartz functions inside the Schwartz space `𝓢(E, F)`. -/
+@[simps]
+def RadialSchwartzMap (𝕜 E F : Type*) [NormedField 𝕜] [NormedAddCommGroup E] [NormedSpace ℝ E]
+    [NormedAddCommGroup F] [NormedSpace ℝ F] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F] :
+    Submodule 𝕜 𝓢(E, F) where
```
Comment (CoolRmal) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Radial.lean:60]: Can you also prove that it is actually a [ClosedSubmodule](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/ClosedSubmodule.html#ClosedSubmodule)?

File: Mathlib/Analysis/Normed/Radial.lean [hunk 5]
```diff
@@ -0,0 +1,106 @@
...
+
+end IsRadial
+
+section Isometries
+
+lemma IsRadial.comp_isometry [SeminormedAddGroup E] {f : E → F} (hf : f.IsRadial) {g : E → E}
+    (hg : Isometry g) (hg₀ : g 0 = 0) : f ∘ g = f :=
+  funext fun x ↦ hf <| hg.norm_map_of_map_zero hg₀ x
+
+lemma isRadial_iff_comp_linearIsometryEquiv [NormedAddCommGroup E] [InnerProductSpace ℝ E]
```
Comment (CoolRmal) [inline Mathlib/Analysis/Normed/Radial.lean:75]: This lemma should also work for an `RCLike 𝕜`, can you either add a TODO in the docstring or try to generalize `Submodule.reflection_sub`?

File: Mathlib/Analysis/Normed/Radial.lean [hunk 6]
```diff
@@ -0,0 +1,106 @@
...
+variable [Norm E]
+
+variable (E) in
+lemma Norm.isRadial : (‖·‖ : E → ℝ).IsRadial := by grind [isRadial_def]
+
+lemma comp_norm (g : ℝ → F) : (g ∘ (‖·‖ : E → ℝ)).IsRadial := by
+  simp [IsRadial.comp_right, Norm.isRadial]
+
+variable (E) in
+lemma isRadial_norm_sq : IsRadial (‖·‖ ^ 2 : E → ℝ) := by grind [isRadial_def]
```
Comment (CoolRmal) [inline Mathlib/Analysis/Normed/Radial.lean]: They should not be in the root namespace.

**Review by CoolRmal — COMMENTED** [review]
Instead of defining `radialSchwartzMap` as a submodule of the space of Schwartz functions, I think it is probably better to define a general `radialSubmodule` for an abstract `FunLike` type. This can then avoid repetitive APIs for radial [ContinuousMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousMap/Defs.html#ContinuousMap)/[CompactlySupportedContinuousMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousMap/CompactlySupported.html#CompactlySupportedContinuousMap)/[TestFunction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/TestFunction.html#TestFunction).

You can take advantage of these `IsApply` instances (e.g. [IsZeroApply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/FunLike/IsApply.html#IsZeroApply),  [IsAddApply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/FunLike/IsApply.html#IsAddApply), [IsSMulApply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/FunLike/IsApply.html#IsSMulApply)) added by @mcdoll in the recent PRs to include lemmas saying that `IsRadial` is closed under addition, scalar multiplication, etc.

File: Mathlib/Analysis/Normed/Radial.lean [hunk 7]
```diff
@@ -0,0 +1,106 @@
+/-
+Copyright (c) 2026 Sidharth Hariharan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Sidharth Hariharan
+-/
+module
+
+public import Mathlib.Analysis.InnerProductSpace.Projection.Reflection
```
Comment (CoolRmal) [inline Mathlib/Analysis/Normed/Radial.lean:8]: After some thoughts I recommend to divide this file into two:
1. The first file contains the definition of `IsRadial` and some basic APIs for radial functions defined on a `SeminormedAddGroup`, and should be put into Analysis/Normed/Group.
2. The second file contains lemmas about `IsRadial` defined on an `InnerProductSpace` and should be put into Analysis/InnerProductSpace.

The reason is that I think sometimes we care about radial functions defined on spaces with no inner product space structure, and in this case it would then be burdensome to import files about InnerProductSpace.

File: Mathlib/Analysis/Normed/Radial.lean (hunk 6 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Normed/Radial.lean]: Good catch, I missed this while doing a refactor

File: Mathlib/Analysis/Normed/Radial.lean (hunk 5 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Normed/Radial.lean:75]: I'll look into this, thanks

Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Normed/Radial.lean:75]: After some thought, I realised that `Submodule.reflection_sub` doesn't quite generalise (not without some additional hypotheses, maybe you need that $\langle u, v\rangle = \langle v, u \rangle$ or something, but as stated, it is false over `RCLike`). But `isRadial_iff_comp_linearIsometryEquiv` should still be true over an `RCLike`, because that reflection is not the only isometry you can use. It might take a while, because I'm a little busy for the next few days, but I should be able to implement this.
